US06608070B1
5-Acetyl-4-methyl-1,2,3-thiadiazole:
To a solution of N-methoxy-N-methyl-4-methyl-1,2,3-thiadiazole-5-carboxamide (11.31 g, 60.4 mmol) in THF (100 ml) was added 2M diethyl ether solution of methylmagnesium iodide (45.3 ml, 90.6 mmol) over 0.5 h at 0° C. The mixture was allowed to warm to room temperature and stirred for 3 h. The mixture was quenched with saturated aqueous ammonium chloride (100 ml) and then extracted with diethyl ether (200 ml×2). The extracts were dried (MgSO4) and concentrated to give 7.49 g (87%) of the title compound as a pale brown oil.

reactant | N-methoxy-N-methyl-4-methyl-1,2,3-thiadiazole-5-carboxamide | 60.4 mmol, 11.31 g | CON(C(=O)C1=C(N=NS1)C)C | C6H9N3O2S
reactant | diethyl ether | 2M | C(C)OCC | C4H10O
reactant | methylmagnesium iodide | 90.6 mmol, 45.3 ml | C[Mg]I
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | 5-Acetyl-4-methyl-1,2,3-thiadiazole | 7.49 g, 87% | C(C)(=O)C1=C(N=NS1)C | C5H6N2OS
